US07449466B2
Production Example 10 was repeated except that 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine was replaced with 1-(2-cyclohexylethyl)-4-(3-fluoro-4-methoxyphenyl)piperazine (218 mg) and the resulting crude product was purified on TLC (developer, chloroform: methanol=18:1) to provide 4-[4-(2-cyclohexylethyl-piperazin-1-yl]-2-fluorophenol (77 mg).

reactant | 1-(4-methoxy-3-methylphenyl)-4-phenethylpiperazine | COC1=C(C=C(C=C1)N1CCN(CC1)CCC1=CC=CC=C1)C | C20H26N2O
reactant | 1-(2-cyclohexylethyl)-4-(3-fluoro-4-methoxyphenyl)piperazine | 218 mg | C1(CCCCC1)CCN1CCN(CC1)C1=CC(=C(C=C1)OC)F | C19H29FN2O
product | 4-(2-cyclohexylethyl-piperazin-1-yl]-2-fluorophenol | 77 mg | C1(CCCCC1)CCC1N(CCNC1)C1=CC(=C(C=C1)O)F | C18H27FN2O
